US05461062
To a solution of 1.50 g of 3-amino-7,8-dihydro-5H-pyrano[4,3-b]pyridine in 45 ml of methylene chloride is added 1.55 ml of trifluoroacetic anhydride with ice cooling and under stirring, and the resultant mixture is stirred at the same temperature for 15 minutes. The reaction mixture is mixed with ice water, made weakly alkaline with aqueous ammonia and extracted with methylene chloride. The extract is washed with saturated saline and the solvent is evaporated. The resultant crude crystals are recrystallized from acetone-isopropyl ether to give 2.14 g of 3-trifluoroacetylamino-7,8-dihydro-5H-pyrano[4,3-b]pyridine as crystals. Yield: 87%. The product (1.55 g) is dissolved in 30 ml of methylene chloride, and 1.63 g of 80% m-chloroperbenzoic acid is added to the solution, which is stirred at room temperature for 2.5 hours. The reaction mixture is mixed with 50 ml of ether, and the precipitated crystals are filtered to give 1.58 g of 3-trifluoroacetylamino-7,8-dihydro-5H-pyrano[4,3-b]pyridine1-oxide as crystals. Yield: 96%. The product (1.568 g) is mixed with 9.4 ml of fuming nitric acid (d=1.52) and stirred at 55° C. for 6 hours. The reaction mixture is concentrated in vacuo, made alkaline with aqueous ammonia, allowed to stand at room temperature overnight and shaken with 10% methanol/chloroform. The resultant crude crystals are recrystallized from acetone to give 0.85 g of 3-amino- 4-nitro-7,8-dihydro-5H-pyrano[4,3-b]pyridine-1-oxide (II1b) as brown crystals. Yield: 67%. Melting point and spectra data confirmed that the product is the same as the compound (II1b) obtained in Reference Example 1.

reactant | 3-amino-7,8-dihydro-5H-pyrano[4,3-b]pyridine | 1.50 g | NC=1C=C2C(=NC1)CCOC2 | C8H10N2O
reactant | trifluoroacetic anhydride | 1.55 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonia | N | H3N
solvent | methylene chloride | 45 ml | C(Cl)Cl | CH2Cl2
product | 3-trifluoroacetylamino-7,8-dihydro-5H-pyrano[4,3-b]pyridine | 2.14 g, Yield: 87% | FC(C(=O)NC=1C=C2C(=NC1)CCOC2)(F)F | C10H9F3N2O2
